US04499000
7-Cyclohexyl-3,3-dimethyl-1,5-dioxa-spiro [5.5]undecane
1.170 g (6.5 mols) of 2-cyclohexyl-cyclohexanone are reacted with 757.9 g (7.15 mols) of trimethyl orthoformate and 743.6 g (7.15 mols) of anhydrous 2,2-dimethyl-1,3-propanediol in a manner analogous to that in Example 1:

reactant | 2-cyclohexyl-cyclohexanone | 6.5 mols, 1.170 g | C1(CCCCC1)C1C(CCCC1)=O | C12H20O
reactant | trimethyl orthoformate | 7.15 mols, 757.9 g | C(OC)(OC)OC | C4H10O3
reactant | 2,2-dimethyl-1,3-propanediol | 7.15 mols, 743.6 g | CC(CO)(CO)C | C5H12O2
product | 7-Cyclohexyl-3,3-dimethyl-1,5-dioxa-spiro [5.5]undecane | C1(CCCCC1)C1C2(OCC(CO2)(C)C)CCCC1 | C17H30O2
